US04840869
81 g of benzofuran-2-carboxylic acid and 50 g of triethylamine were added to 550 ml of ethyl acetate, and to the mixture were further added 40 g of chloroacetonitrile, and the mixture was refluxed by heating for 3 hours. The deposited crystals were removed and the solvent was distilled off, and the obtained crystals were recrystallized from methanol to thereby obtain 85 g of benzofuran-2-carboxylic acid cyanomethyl ester having a melting point between 74° C. and 76° C.

reactant | benzofuran-2-carboxylic acid | 81 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | triethylamine | 50 g | C(C)N(CC)CC | C6H15N
reactant | chloroacetonitrile | 40 g | ClCC#N | C2H2ClN
solvent | ethyl acetate | 550 ml | C(C)(=O)OCC | C4H8O2
product | benzofuran-2-carboxylic acid cyanomethyl ester | 85 g | C(#N)COC(=O)C=1OC2=C(C1)C=CC=C2 | C11H7NO3
